US05952504
(D) Ethyl 4-(2-Methylphenylamino)-8-methoxy-1,7-naphthyridin-3-carboxylate
Ethyl 4-methanesulfonyloxy-8-methoxy-1,7-naphthyridin-3-carboxylate (261 mg and o-toluidine (0.17 nl) were dissolved into 7 ml of acetonitrile and the solution was heated to reflex for 30 minutes. After cooling the mixture, the solvent was evaporated under reduced pressure and the beside was dissolved into chloroform. The solution was washed with water and then saturated sodium bicarbonate, dried, and concentrate under reduced pressure. The residue was subjected to silica gel column chromatography using a mixture of hexane:ethyl acetate (2:1) as an eluant to give yellow titled compound (180 mg, 67%).

reactant | Ethyl 4-methanesulfonyloxy-8-methoxy-1,7-naphthyridin-3-carboxylate | CS(=O)(=O)OC1=C(C=NC2=C(N=CC=C12)OC)C(=O)OCC | C13H14N2O6S
reactant | o-toluidine | 0.17 nl | NC=1C(=CC=CC1)C | C7H9N
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
product | Ethyl 4-(2-Methylphenylamino)-8-methoxy-1,7-naphthyridin-3-carboxylate | 180 mg, 67% | CC1=C(C=CC=C1)NC1=C(C=NC2=C(N=CC=C12)OC)C(=O)OCC | C19H19N3O3
